US08258306B2
To a solution of (R)-1-(1-(4-chlorophenyl)cyclohexyl)-3-methylpiperazine (0.6 g, 2.05 mmol) in dichloromethane at room temperature were added methyl glyoxalate (0.23 g, 2.61 mmol), acetic acid (0.18 g, 3 mmol) and Na(OAc)3BH (1.08 g, 5.1 mmol). The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the crude product. It was purified by silica gel (100-200 mesh) column chromatography eluting with ethyl acetate in n-hexanes to afford 0.49 g of (R)-methyl 2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methyl-piperazin-1-yl)acetate.

reactant | (R)-1-(1-(4-chlorophenyl)cyclohexyl)-3-methylpiperazine | 2.05 mmol, 0.6 g | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](NCC1)C | C17H25ClN2
reactant | methyl glyoxalate | 2.61 mmol, 0.23 g | C(C=O)(=O)OC | C3H4O3
reactant | acetic acid | 3 mmol, 0.18 g | C(C)(=O)O | C2H4O2
reactant | Na(OAc)3BH | 5.1 mmol, 1.08 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (R)-methyl 2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methyl-piperazin-1-yl)acetate | 0.49 g | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](N(CC1)CC(=O)OC)C | C20H29ClN2O2
